US07632840B2
N-(3-Chloro-2-fluorophenyl)-7-methoxy-6-{[(2-methoxyethyl)amino]methyl}quinazolin-4-amine was coupled with ethyl O-trifluoromethanesulfonyl-D-lactate and hydrolysed using analogous methods to those described for the equivalent steps in Example 46 to give N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-(2-methoxyethyl)-L-alanine; 1H NMR Spectrum: (DMSO-d6) 1.28 (d, 3H); 2.85 (t, 2H); 3.13 (s, 3H); 3.34 (m, 2H); 3.56 (q, 1H); 3.93 (m, 5H); 7.18 (s, 1H); 7.28 (t, 1H); 7.48 (t, 1H); 7.57 (m, 1H); 8.41 (m, 2H); 9.70 (brs, 1H); Mass Spectrum: (M+H)+ 463.

reactant | N-(3-Chloro-2-fluorophenyl)-7-methoxy-6-{[(2-methoxyethyl)amino]methyl}quinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNCCOC)OC)F | C19H20ClFN4O2
reactant | ethyl O-trifluoromethanesulfonyl-D-lactate | CCOC(=O)[C@@H](C)OS(=O)(=O)C(F)(F)F | C6H9F3O5S
product | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-(2-methoxyethyl)-L-alanine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN([C@@H](C)C(=O)O)CCOC)OC)F | C22H24ClFN4O4
